US06951868B2
KOH (218 mg, 3.9 mmol) is added to a mixture of 3-ethyl-2,3-dihydro-1,4-benzodioxine-6-carbonitrile (247 mg, 1.3 mmol), ethanol (3 mL) and water (1 mL). The resulting mixture is heated to 80° C. for 24 hours. The reaction is allowed to cool, diluted with water (2 mL) and acidified to pH<2 with concentrated HCl. The resulting solid is filtered, washed with water and dried at 60° C. under vacuum to give 3-ethyl-2,3-dihydro-1,4-benzodioxine-6-carboxylic acid as a white solid (249 mg, 92%). 1H NMR (400 MHz, DMSO-d6) δ 12.66, 7.43, 7.37, 6.95, 4.38, 4.10, 3.95, 1.64, 1.01.

reactant | KOH | 3.9 mmol, 218 mg | [OH-].[K+]
reactant | 3-ethyl-2,3-dihydro-1,4-benzodioxine-6-carbonitrile | 1.3 mmol, 247 mg | C(C)C1OC2=C(OC1)C=CC(=C2)C#N | C11H11NO2
reactant | ethanol | 3 mL | C(C)O | C2H6O
reactant | HCl | Cl | ClH
reactant | water | 2 mL | O | H2O
reactant | water | 1 mL | O | H2O
product | 3-ethyl-2,3-dihydro-1,4-benzodioxine-6-carboxylic acid | 249 mg, 92% | C(C)C1OC2=C(OC1)C=CC(=C2)C(=O)O | C11H12O4
